US07160887B1
A mixture of tert-butyl[3-(2-amino-5-chlorophenoxy)benzyl]carbamate (10.5 g. 30 mmols), ethyl 5-bromovalerate (10.2 ml, 60 mmols), potassium carbonate (4.2 g, 30 mmols) and N,N-dimethylformamide (100 ml) was stirred at 60° C. for 96 hours. The reaction mixture was cooled, poured into water, and extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography to give an oil of ethyl 5-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]aminovalerate (8.65 g, 60.4%).

reactant | tert-butyl[3-(2-amino-5-chlorophenoxy)benzyl]carbamate | 30 mmols, 10.5 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)OC1=C(C=CC(=C1)Cl)N)=O | C18H21ClN2O3
reactant | ethyl 5-bromovalerate | 60 mmols, 10.2 ml | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | 30 mmols, 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 5-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]aminovalerate | 8.65 g, 60.4% | C(C)(C)(C)OC(=O)NCC=1C=C(OC2=C(C=CC(=C2)Cl)NCCCCC(=O)OCC)C=CC1 | C25H33ClN2O5
